US08017610B2
(17a) Ethyl 5-bromo-1H-pyrrole-2-carboxylate
Commercially available ethyl 1H-pyrrole-2-carboxylate (5.10 g, 30.7 mmol) was dissolved in a mixed solvent of tetrahydrofuran (120 mL) and methanol (60 mL), and cooled to 0° C. N-Bromosuccinimide (6.52 g, 30.7 mmol) was added, and stirring was carried out at room temperature for 18 hours under nitrogen atmosphere. Water (150 mL) and ethyl acetate (200 mL) were added, and the solution was separated. The organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: ethyl acetate/hexane=5%-30%) to afford the desired compound (3.20 g, yield 40%) as a white solid.

reactant | ethyl 1H-pyrrole-2-carboxylate | 30.7 mmol, 5.10 g | N1C(=CC=C1)C(=O)OCC | C7H9NO2
reactant | N-Bromosuccinimide | 30.7 mmol, 6.52 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | 150 mL | O | H2O
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | methanol | 60 mL | CO | CH4O
product | Ethyl 5-bromo-1H-pyrrole-2-carboxylate | 3.20 g, yield 40% | BrC1=CC=C(N1)C(=O)OCC | C7H8BrNO2
